US05344957
ethyl β-[[[2-[[[4-(aminoiminomethyl)phenyl]amino]carbonyl]cyclopropyl]carbonyl]amino]-butanoate, isomer 1.
To 1.0 g (0.0035 mol) 2-[[[4-(aminoiminomethyl)phenyl]amino]carbonyl]cyclopropyl-carboxylic acid hydrochloride in 100 mL dry DMF was added 0.36 g (0.39 mL, 0.0035 mol) N-methylmorpholine and 0.48 g (0.46 mL, 0.0035 mol) isobutylchloroformate. The reaction was allowed to proceed for ten minutes at room temperature then 0.515 g (0.576 mL , 0.0035 mol) ethyl 3-aminobutyrate was added. The reaction was allowed to proceed overnight. The volatiles were removed under vacuum at 55° C. until a viscous oil remained. The residue was dissolved in water (60 mL) and purified by preparative RPHPLC. Two diastereomers were obtained and separated by HPLC. The faster eluting diastereoisomer, isomer 1, was collected and lyophilized to 0.9 g of a white solid: 1H NMR (300 MHz) d6 -DMSO δ 1.17 (m, 8H), 2.07 (m, 1H), 2.38 (m, 1H), 4.04 (m, 3 H), 7.77 (s, 4H), 8.28 (d, J=7.9), 8.80 (bs, 2H), 9.16 (bs , 2H), 10.78 (s , 1H); MS (FAB) 361.3 (MH+).

reactant | 2-[[[4-(aminoiminomethyl)phenyl]amino]carbonyl]cyclopropyl-carboxylic acid hydrochloride | 0.0035 mol, 1.0 g | Cl.NN=CC1=CC=C(C=C1)NC(=O)C1C(C1)C(=O)O
reactant | N-methylmorpholine | 0.0035 mol, 0.39 mL, 0.36 g | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 0.0035 mol, 0.46 mL, 0.48 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ethyl 3-aminobutyrate | 0.0035 mol, 0.576 mL, 0.515 g | NC(CC(=O)OCC)C | C6H13NO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | ethyl β-[[[2-[[[4-(aminoiminomethyl)phenyl]amino]carbonyl]cyclopropyl]carbonyl]amino]-butanoate | NN=CC1=CC=C(C=C1)NC(=O)C1C(C1)C(=O)NC(CC(=O)OCC)C | C18H24N4O4
